US08114529B2
54.0 g of 2,7-dihydroxynaphthalene was dissolved in a mixture of 680 ml of dichloromethane and 136 ml of pyridine, and to this, 228 g of trifluoromethanesulfonic anhydride (produced by TOKYO CHEMICAL INDUSTRY CO., LTD.) was added dropwise at 0° C. After the resulting mixture was reacted at 5° C. for 2 hours and then at room temperature for one day, a reactant was treated by a normal method to obtain 143 g of 2,7-bis(trifluoromethane sulfonyloxy)naphthalene. 143 g of this 2,7-bis(trifluoromethane sulfonyloxy)naphthalene was mixed with 216 ml of n-butyl vinyl ether, 113 ml of triethylamine, 2.78 g of 1,3-bis(diphenylphosphino)propane, 0.76 g of palladium acetate and 680 ml of dimethylformamide and the resulting mixture was reacted at 70 to 85° C. for two days. The reactant was treated by a normal method to obtain 40 g of 2,7-diacetylnaphthalene. 4.62 g of this 2,7-diacetylnaphthalene was reacted with 7.87 g of 8-amino-7-quinoline carboaldehyde and 7.9 g of potassium hydroxide in 220 ml of ethanol at 60° C. and a reactant was treated by a normal method to obtain 4.44 g of 2,7-di(1,10-phenanthroline-2-yl)naphthalene. 5.48 g of this 2,7-di(1,10-phenanthroline-2-yl)naphthalene was reacted with 22.6 ml of phenyl lithium (2.0 M cyclohexane-ether solution) in 200 ml of toluene at room temperature for 2 days and a reactant was treated by a normal method. The obtained product was reacted with 100 g of manganese dioxide in 400 ml of dichloromethane at room temperature for 2.5 hours and a reactant was treated by a normal method to obtain 0.93 g of E-57.

reactant | 2,7-bis(trifluoromethane sulfonyloxy)naphthalene | 143 g | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OS(=O)(=O)C(F)(F)F)(F)F | C12H6F6O6S2
reactant | n-butyl vinyl ether | 216 ml | C(=C)OCCCC | C6H12O
reactant | triethylamine | 113 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino)propane | 2.78 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | dimethylformamide | 680 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.76 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,7-diacetylnaphthalene | 40 g | C(C)(=O)C1=CC2=CC(=CC=C2C=C1)C(C)=O | C14H12O2
